US07544693B2
2-Chloronicotinic acid (5.90 g, 37.5 mmol), ethanol (120 mL), toluene (35 mL) and 98% sulfuric acid (2 mL) were heated together under reflux for 48 hours. After evaporation of the ethanol and toluene, the residue was dissolved in water, neutralized with sodium bicarbonate, and extracted with chloroform. The organic layer was dried through MgSO4, and then the solvent was evaporated to give a dark-brown oil-like residue, which was purified by flash chromatography using a gradient of 10-20% hexane/ethyl acetate as the eluant to give ethyl 2-chloronicotinate (4.60 g) as a light-brown oil.

reactant | 2-Chloronicotinic acid | 37.5 mmol, 5.90 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | ethanol | 120 mL | C(C)O | C2H6O
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-chloronicotinate | 4.60 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
